US08293735B2
(±)-(cis)-4-Azetidin-1-yl-3-fluoro-piperidine
Prepared according to the method used in the preparation of 7-methyl-2,7-diaza-spiro[3.5]nonane using 3-fluoro-4-oxo-piperidine-1-carboxylic acid tert-butyl ester in place of formaldehyde and azetidine in place of 2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester hydrochloride. The title compound was obtained as a colourless oil (205 mg, 56%).

reactant | 7-methyl-2,7-diaza-spiro[3.5]nonane | CN1CCC2(CNC2)CC1 | C8H16N2
reactant | 3-fluoro-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)F | C10H16FNO3
reactant | azetidine | N1CCC1 | C3H7N
product | (±)-(cis)-4-Azetidin-1-yl-3-fluoro-piperidine | N1(CCC1)[C@@H]1[C@@H](CNCC1)F | C8H15FN2
